US05352701
5.1g of glutaric acid monomethyl ester chloride and 5g of 3-(2-methoxyphenyl)-propionic acid methyl ester are added with ice cooling in succession to a suspension of 10g of aluminum chloride in 100 ml of dichloromethane and the mixture is stirred for 16 hours at room temperature. The reaction mixture is poured on ice/2n hydrochloric acid, shaken out with dichloromethane, the organic phase is dried on sodium sulfate and concentrated by evaporation. The residue is chromatographed on silica gel with hexane/ethyl acetate (0-30% ethyl acetate). 4.45g of 5-[4-methoxy-3-(2-methoxycarbonylethyl)-phenyl]-5-oxo-pentanoic acid methyl ester is obtained as oil, that is heated together with 47.5g of pyridinehydrochloride for 5 hours to 180° C. for further reaction. After cooling to 90° C. the reaction mixture is mixed with water, acidified to pH 1 with concentrated hydrochloric acid, shaken out with ethyl acetate, the organic phase is dried on sodium sulfate and concentrated by evaporation. 3.9g of 5[3-(2-carboxyethyl)-4-hydroxyphenyl]-5-oxopentanoic acid of melting point of 169°-166° C. is obtained.

reactant | glutaric acid monomethyl ester chloride | 5.1g | [Cl-].COC(CCCC(=O)O)=O
reactant | 3-(2-methoxyphenyl)-propionic acid methyl ester | COC(CCC1=C(C=CC=C1)OC)=O | C11H14O3
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-[4-methoxy-3-(2-methoxycarbonylethyl)-phenyl]-5-oxo-pentanoic acid methyl ester | 4.45g | COC(CCCC(=O)C1=CC(=C(C=C1)OC)CCC(=O)OC)=O | C17H22O6
